US07947689B2
6-Chloro-2-[(4-methyl-6,7-dihydrofuro[3,2-c]pyridin-5(4H)-yl)carbonyl]pyrazolo[1,5-a]pyrimidine
In close analogy to the procedure described in Example 1, 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 4-Methyl-4,5,6,7-tetrahydro-furo[3,2-c]pyridine to provide the title compound.

reactant | 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | ClC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4ClN3O2
reactant | 4-Methyl-4,5,6,7-tetrahydro-furo[3,2-c]pyridine | CC1NCCC2=C1C=CO2 | C8H11NO
product | 6-Chloro-2-[(4-methyl-6,7-dihydrofuro[3,2-c]pyridin-5(4H)-yl)carbonyl]pyrazolo[1,5-a]pyrimidine | Yield: 49% | ClC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=C(CC2)OC=C1)C | C15H13ClN4O2
